US07179823B1
Lithium aluminium hydride (262 mg) was added to a solution of methyl 3-[1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-phenyl-1H-pyrazol-4-yl]propionate (3.50 g) in diethyl ether (50 ml) at 0° C., and the mixture was stirred at 0° C. for one hour. After adding water, the reaction mixture was acidified with diluted hydrochloric acid, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and then concentrated. The residue was subjected to silica gel column chromatography, and 3-[1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-phenyl-1H-pyrazol-4-yl]propan-1-ol (3.04 g, yield: 92%) was obtained as a colorless oily substance from the fraction eluted with ethyl acetate-hexane (3:2, volume ratio).

reactant | Lithium aluminium hydride | 262 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 3-[1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-phenyl-1H-pyrazol-4-yl]propionate | 3.50 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CN2N=C(C(=C2)CCC(=O)OC)C2=CC=CC=C2)C=C1 | C31H29N3O4
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 3-[1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-phenyl-1H-pyrazol-4-yl]propan-1-ol | 3.04 g, yield: 92% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CN2N=C(C(=C2)CCCO)C2=CC=CC=C2)C=C1 | C30H29N3O3
